US07189741B2
This compound was prepared following the procedure described in example 13 (part B) at room temperature for 15 hours, starting with 0.2 g (0.73 mmol) of 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester and 1.64 mL (0.95 mmol) of a freshly prepared 0.6 M solution of 3-bromomethylthiophene in ethyl ether. After standard work-up, 0.27 g (100% of yield) of 4-(1-thiophen-3-ylmethyl-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester were obtained.

reactant | 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 0.73 mmol, 0.2 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12 | C16H20N2O2
reactant | 3-bromomethylthiophene | BrCC1=CSC=C1 | C5H5BrS
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-(1-thiophen-3-ylmethyl-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 0.27 g, 100% | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)CC1=CSC=C1 | C21H24N2O2S
